US05556864
22(a) 2-{2-[4-(2-Benzyloxyphenyl)-1-buten-1-yl]phenoxymethyl}oxirane
Following a procedure similar to that described in Example 1(a), 330 mg of 2-[4-(2-benzyloxyphenyl)-1-buten-1-yl)phenol (prepared as described in Preparation 14), 124 mg of potassium t-butoxide and 151 mg of epibromohydrin were reacted in 10 ml of dimethylacetamide. The crude product, extracted as described in Example 1(a), was purified as described in Example 1(a), to give 328 mg (yield 85%) of the title compound as a colorless oil.

reactant | 2-[4-(2-benzyloxyphenyl)-1-buten-1-yl)phenol | 330 mg | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCC=CC1=C(C=CC=C1)O | C23H22O2
reactant | potassium t-butoxide | 124 mg | CC(C)([O-])C.[K+]
reactant | epibromohydrin | 151 mg | C(Br)C1CO1 | C3H5BrO
solvent | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
product | 2-{2-[4-(2-Benzyloxyphenyl)-1-buten-1-yl]phenoxymethyl}oxirane | 328 mg, yield 85% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCC=CC1=C(OCC2OC2)C=CC=C1 | C26H26O3
